US05236952
10.0 g of 1-(3,4-dimethoxy-5-nitrobenzoyl)imidazole in 50 ml of dimethylformamide are treated with 6.95 g of acetamidoxime, whereupon the mixture is stirred at 70° for 1 hour. After cooling, the mixture is poured into 500 ml of ice-water and stirred for 30 minutes. The separated crystals are filtered under suction and washed with water. After crystallization from ethyl acetate there is obtained N'-[(3,4-dimethoxy-5-nitrobenzoyl)oxy]acetamidine in the form of colorless crystals of m.p. 165°-166°.

reactant | 1-(3,4-dimethoxy-5-nitrobenzoyl)imidazole | 10.0 g | COC=1C=C(C(=O)N2C=NC=C2)C=C(C1OC)[N+](=O)[O-] | C12H11N3O5
reactant | acetamidoxime | 6.95 g | C(C)(N)=NO | C2H6N2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N'-[(3,4-dimethoxy-5-nitrobenzoyl)oxy]acetamidine | COC=1C=C(C(=O)ON=C(C)N)C=C(C1OC)[N+](=O)[O-] | C11H13N3O6
